US09375002B2
0.30 g (1.27 mmol) of 5-chloro-2-(methylsulfonyl)pyrimidine-4-carboxamide, 0.25 g (1.53 mmol) of (1R,2S)-2,6-dimethyl-2,3-dihydro-1H-indene-1-amine and 0.28 g (2.54 mmol) of triethylamine in 1.5 ml of N,N-dimethylacetamide are heated in a closed cuvette in the microwave at 120° C. for 45 minutes (Biotage Initiator, http://www.biotage.com/DynPage.aspx?id=22001). The crude mixture obtained in this manner is applied to silica gel and purified by column chromatography using the mobile phase heptane/ethyl acetate. Concentration gives initially 0.07 g of 5-chloro-2-{[(1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-yl]amino}pyrimidine-4-carboxamide (wax-like) and then 0.252 g of 5-{[(1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-yl]amino}-2-(methylsulfonyl)pyrimidine-4-carboxamide (yield 52% at a purity of 95%).

reactant | 5-chloro-2-(methylsulfonyl)pyrimidine-4-carboxamide | 1.27 mmol, 0.30 g | ClC=1C(=NC(=NC1)S(=O)(=O)C)C(=O)N | C6H6ClN3O3S
reactant | (1R,2S)-2,6-dimethyl-2,3-dihydro-1H-indene-1-amine | 1.53 mmol, 0.25 g | C[C@@H]1[C@H](C2=CC(=CC=C2C1)C)N | C11H15N
reactant | triethylamine | 2.54 mmol, 0.28 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 1.5 ml | CN(C(C)=O)C | C4H9NO
product | 5-chloro-2-{[(1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-yl]amino}pyrimidine-4-carboxamide | 0.07 g, yield 52% | ClC=1C(=NC(=NC1)N[C@@H]1[C@H](CC2=CC=C(C=C12)C)C)C(=O)N | C16H17ClN4O
